US05468748
9-(4-(2-Hydroxyethyl)-1-piperazinyl)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione
9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione (3.0 g, 12.8 mmol) was reacted with N-(2-hydroxyethyl)piperazine (3.66 g, 28.2 mmol) as described in example 18. The crude product was purified by dissolving in aqueous NaHCO3 /NaOH and precipitated by adding to hydrochloric acid. The procedure was repeated and the product was finally washed with ethanol and dried to give 1.53 g (28%) of the title compound as a dihydrochloride. M.p. 210° C. (destruction). 1H-NMR (DMSO-d6 +D2O, δ): 2.35-3.6 (m, 10H), 3.75 (m, 2H), 4.73 (s, 1H), 7.22 (t, 1H), 7.35 (t, 1H), 7.51 (d,1H), 7.57 (d, 1H).

reactant | 9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 12.8 mmol, 3.0 g | ClC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H7ClN2O2
reactant | N-(2-hydroxyethyl)piperazine | 28.2 mmol, 3.66 g | OCCN1CCNCC1 | C6H14N2O
product | 9-(4-(2-Hydroxyethyl)-1-piperazinyl)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 1.53 g, 28% | OCCN1CCN(CC1)C1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C17H20N4O3
